US04958026
At 0° C., 9.7 ml of trifluoroacetic anhydride in 10 ml of dichloromethane is added dropwise to 8.8 g of 2-(3-methoxy-4-nitrophenyl)ethylamine in 200 ml of dichloromethane. After 2 hours at 0° C. and 16 hours at room temperature, the mixture is concentrated and recrystallized from ethyl acetate/hexane, thus obtaining 12.5 g of N-[2-(3-methoxy-4-nitrophenyl)ethyl]trifluoroacetamide, mp 104°-104.5° C.

reactant | trifluoroacetic anhydride | 9.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(3-methoxy-4-nitrophenyl)ethylamine | 8.8 g | COC=1C=C(C=CC1[N+](=O)[O-])CCN | C9H12N2O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[2-(3-methoxy-4-nitrophenyl)ethyl]trifluoroacetamide | 12.5 g | COC=1C=C(C=CC1[N+](=O)[O-])CCNC(C(F)(F)F)=O | C11H11F3N2O4
